US07902207B2
(1) Synthesis of N,N′-di-p-toluenesulfonyl-1,1′-binaphthyl-2,2′-diamine
Under nitrogen atmosphere, to a solution in which 1,1′-binaphthyl-2,2′-diamine (0.5 mmol) was dissolved in pyridine (1 mL) was added p-toluenesulfonyl chloride (1.1 mmol) at room temperature, and the mixture was reacted for 5 to 12 hours with stirring. After completion of the reaction, the resulting red suspension was diluted with ethyl acetate, and back-extracted with 1N hydrochloric acid to remove pyridine. The resulting organic layer was dried with sodium sulfate to remove the solvent, and the residue was purified by column chromatography to obtain an objective substance as a pale yellow to white solid in more than 95% yield.

reactant | 1,1′-binaphthyl-2,2′-diamine | 0.5 mmol | C=1(C(=CC=C2C=CC=CC12)N)C=1C(=CC=C2C=CC=CC12)N | C20H16N2
reactant | p-toluenesulfonyl chloride | 1.1 mmol | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N′-di-p-toluenesulfonyl-1,1′-binaphthyl-2,2′-diamine | more than 95% yield | C1(=CC=C(C=C1)S(=O)(=O)NC=1C(=C2C=CC=CC2=CC1)C=1C(=CC=C2C=CC=CC12)NS(=O)(=O)C1=CC=C(C=C1)C)C | C34H28N2O4S2
